US04434175
Step E: Preparation of 5-(p-chlorobenzoyl)-2-diazomethylcarbonyl-4-methylthio-1-methylpyrrole
To a solution of the crude 5-(p-chlorobenzoyl)-2-hydroxycarbonyl-4-methylthio-1-methylpyrrole in 3 ml of methylene chloride is added 100 μl of (COCl)2 followed by the addition of 0.5 μl of dimethylformamide (DMF). The resulting reaction mixture is stirred for about an hour and then concentrated to give a yellow solid. Subsequently freshly prepared diazomethane is added dropwise to a stirred solution of the yellow solid in 1 ml of methylene chloride at 0°. The reaction is allowed to warm up to room temperature over a period of one hour. After the excess amount of diazomethane is removed by bubbling nitrogen through the reaction mixture, the solvents are removed by evaporation under reduced pressure and a bright yellow solid is collected. This crude product, i.e., 5-(p-chlorobenzoyl)-2-diazomethylcarbonyl-4-methylthio-1-methylpyrrole, is used directly in the next step without further purification.

reactant | 5-(p-chlorobenzoyl)-2-hydroxycarbonyl-4-methylthio-1-methylpyrrole | ClC1=CC=C(C(=O)C2=C(C=C(N2C)C(=O)O)SC)C=C1 | C14H12ClNO3S
reactant | (COCl)2 | 100 μl | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 μl | CN(C=O)C | C3H7NO
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 5-(p-chlorobenzoyl)-2-diazomethylcarbonyl-4-methylthio-1-methylpyrrole | ClC1=CC=C(C(=O)C2=C(C=C(N2C)C(=O)C=[N+]=[N-])SC)C=C1 | C15H12ClN3O2S
